### PR TITLE
replace nor with or + not

### LINKED ISSUE #145: Simpler Logical operators for Brzozowski than nor
Currently all logical operators are defined using the `nor` operator.
This has proven to be very inconvenient and possibly overkill on my part.

I wonder if it would make more sense to define only the `or`, `not` and `and` operators and be happy with that as enough of an extended regular expression.

The positive is that proves for concat, that requires or, would be more natural. 
The negative is that we lose the possibility to handle all boolean operators.

Other idea is to make it really easy rewrite between the `or` regex constructor and disjunction in the property space.

This is something @Nielius and I discussed in a previous session, but didn't come to a conclusion.
I think it is worth continuing this discussion.

CC @paulcadman

### PR DESCRIPTION
**Pull request by awalterschulze**
Review, but **DO NOT MERGE** There is a stack of pull requests that depends on this one.  Let me worry about doing it in the right order.

Fixes #145 

I replaced `nor` with `or` and `not`

The reasoning:

It is possible to represent all logic operators, using only two logic operators.
`or` is the natural one we want, since it is used to define `concat` and `concat` is used again by `star`.
We only need to add the `not` operator, which then allows us to represent `nor`

```
P | Q | P nor Q
-----------------
T | T | F
T | F | F
F | T | F
F | F | T

P | Q | not (P or Q)
-----------------
T | T | F
T | F | F
F | T | F
F | F | T
```

, which allows us to represent all logic operators, for example `and`

```
P | Q | P and Q
-----------------
T | T | T
T | F | F
F | T | F
F | F | F

P | Q | not ((not P) or (not Q))
-----------------
T | T | T
T | F | F
F | T | F
F | F | F
```

I think we should replace `nor` with `not` and `or`.  It is still a minimal extension, but allows us to more naturally work for `concat` and `star`, which are typically the hardest proofs we have to do.

### CODE REVIEW

**Review by paulcadman — APPROVED** [review]
This is a nice compromise between conciseness and clarity 🥇

File: src/Brzozowski/Language.v [hunk 1]
```diff
@@ -67,12 +67,18 @@ Inductive symbol_lang (a: alphabet): lang :=
...
 *)
-Inductive nor_lang (P Q: lang): lang :=
-  | mk_nor : forall s,
-    s \notin P /\ s \notin Q ->
-    nor_lang P Q s
+Inductive or_lang (P Q: lang): lang :=
+  | mk_or : forall s,
+    s \in P \/  s \in Q ->
+    or_lang P Q s
+  .
```
Comment (Nielius) [inline src/Brzozowski/Language.v:76]: Wouldn't it make sense to turn this into a function, like this?

```
  Definition or_lang' (P Q: lang): lang :=
    fun (s: str) => P s \/ Q s.
```

That seems a bit more natural to me, but to be honest, I'm not entirely sure what the differences between the two are.

Comment (Nielius) [reply src/Brzozowski/Language.v:76]: This would of course also work for `and_lang` and `not_lang`.

Comment (awalterschulze) [reply src/Brzozowski/Language.v:76]: I guess would be calling `fold` and `unfold` vs `constructor` and `inversion`, but we would need to update more of these Inductive types to be consistent.  So far I still like the Inductive types, but it is something we can discuss next Saturday.

File: src/Brzozowski/LogicOp.v [hunk 2]
```diff
@@ -12,38 +12,32 @@ Require Import Brzozowski.Setoid.
...
-  nor_lang R R.
+Definition nor_lang (P Q: lang) : lang :=
+  neg_lang (or_lang P Q).
 
 Definition and_lang (P Q: lang) : lang :=
-  nor_lang (nor_lang P P) (nor_lang Q Q).
-
-Definition or_lang (P Q: lang) : lang :=
-  nor_lang (nor_lang P Q) (nor_lang P Q).
+  neg_lang (or_lang (neg_lang P) (neg_lang Q)).
```
Comment (Nielius) [inline src/Brzozowski/LogicOp.v:32]: I think this is a place where we should be careful: on the level of languages, because we don't have decidability, this definition of `and_lang` is not the same as defining it like this:

```
Definition and_lang (P Q: lang): lang :=
  fun (s: str) => P s /\ Q s.
```

I think we should use this definition, and then have some kind of proposition that says that for regular languages, this `and_lang` is the same as `neg_lang (or_lang (neg_lang P) (neq_lang Q))`.

File: src/Brzozowski/Language.v (hunk 1 above)
Comment (awalterschulze) [reply src/Brzozowski/Language.v:76]: So not something I want to tackle in this pull request.
But I think going with your Definition idea, might make `cbn` very powerful. 
Hmmm, that might be really useful.

File: src/Brzozowski/LogicOp.v (hunk 2 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:32]: I agree, I have made an issue https://github.com/awalterschulze/regex-reexamined-coq/issues/154

Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:32]: Really nice catch.

File: src/Brzozowski/LogicOp.v [hunk 3]
```diff
@@ -12,38 +12,32 @@ Require Import Brzozowski.Setoid.
...
 
 Lemma denote_regex_or_step:
```
Comment (Nielius) [inline src/Brzozowski/LogicOp.v:34]: `denote_regex_nor_step`?

File: src/Brzozowski/LogicOp.v (hunk 2 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:32]: I will fix this in a following pull request and made this issue so I don't forget.

File: src/Brzozowski/LogicOp.v (hunk 3 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:34]: nice catch.

File: src/Brzozowski/LogicOp.v [hunk 4]
```diff
@@ -91,64 +75,18 @@ Qed.
...
-intros.
-unfold not_lang.
-rewrite H.
-reflexivity.
-Qed.
-
-Existing Instance not_lang_morph_Proper.
-
-Theorem or_denotes_or_lang:
+Theorem nor_denotes_nor_lang:
```
Comment (Nielius) [inline src/Brzozowski/LogicOp.v:78]: We can also add these two:

```
Existing Instance and_lang_morph_Proper.

Theorem or_denotes_or_lang:
  forall (p q: regex),
  {{or p q}} {<->} or_lang {{p}} {{q}}.
Proof.
  intros.
  split; intros; constructor; inversion H; assumption.
Qed.

Theorem neg_denotes_neg_lang:
  forall (p : regex),
  {{neg p}} {<->} neg_lang {{p}}.
Proof.
  intros.
  split; intros; constructor; inversion H; assumption.
Qed.
```

**Review by Nielius — APPROVED** [review]
Thanks for doing this!

(Sorry for posting lots of single comments btw. First I thought I'd only place one comment, but then I got sucked in.)

File: src/Brzozowski/Language.v (hunk 1 above)
Comment (Nielius) [reply src/Brzozowski/Language.v:76]: Yeah, no need to do it now.

File: src/Brzozowski/LogicOp.v (hunk 4 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:78]: We could add these, but this is just what denote_regex does.  Although I have found that I would have liked to have them today.  I will add it.  Thank you

**Comment by awalterschulze** [comment]
> Thanks for doing this!
> 
> (Sorry for posting lots of single comments btw. First I thought I'd only place one comment, but then I got sucked in.)

Thank you reviewing :D not a problem.  I also do single comments a lot of the time, it happens.

**Comment by awalterschulze** [comment]
I might add the requires changes after merging, just because of the logistical issues of merging a diff stack on github.

File: src/Brzozowski/Language.v (hunk 1 above)
Comment (awalterschulze) [reply src/Brzozowski/Language.v:76]: Just tried here, but unfortunately `cbn` was not as powerful as I have hoped.
If we change all the Inductives to definitions, we also have to consider what to do with star_lang.

Comment (awalterschulze) [reply src/Brzozowski/Language.v:76]: One benefit of `Definitions` is you can `unfold` at any time, not only using constructor, when the inductive type is at the top.

File: src/Brzozowski/LogicOp.v (hunk 3 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:34]: Fixed in https://github.com/awalterschulze/regex-reexamined-coq/pull/158

File: src/Brzozowski/LogicOp.v (hunk 4 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:78]: Added in https://github.com/awalterschulze/regex-reexamined-coq/pull/158

File: src/Brzozowski/LogicOp.v (hunk 2 above)
Comment (awalterschulze) [reply src/Brzozowski/LogicOp.v:32]: Fixed in https://github.com/awalterschulze/regex-reexamined-coq/pull/159

File: src/Brzozowski/Language.v (hunk 1 above)
Comment (awalterschulze) [reply src/Brzozowski/Language.v:76]: I have created an issue where we can continue to discuss this https://github.com/awalterschulze/regex-reexamined-coq/issues/160
